US05424280
Preparation of 2-{o-[5-(2,4-Dichlorophenoxy)-2-nitrophenoxy]phenoxy}acetamide
A mixture of {o-[5-(2,4-dichlorophenoxy)-2nitrophenoxy]phenoxy}acetyl chloride (1.11 g, 2.38 mmol), ammonia solution (5 mL of a 35% solution), ethanol (5 mL) and N,N-dimethylformamide (10 mL) is stirred for one hour, poured into water and extracted with an ether/ethyl acetate (1:1) solution. The combined organic extracts are washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as a yellow oil (1.0 g) which is identified by NMR spectral analyses.

reactant | {o-[5-(2,4-dichlorophenoxy)-2nitrophenoxy]phenoxy}acetyl chloride | 2.38 mmol, 1.11 g | ClC1=C(OC=2C=CC(=C(OC3=C(OCC(=O)Cl)C=CC=C3)C2)[N+](=O)[O-])C=CC(=C1)Cl | C20H12Cl3NO6
reactant | ammonia | N | H3N
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-{o-[5-(2,4-Dichlorophenoxy)-2-nitrophenoxy]phenoxy}acetamide | 1.0 g | ClC1=C(OC=2C=CC(=C(OC3=C(OCC(=O)N)C=CC=C3)C2)[N+](=O)[O-])C=CC(=C1)Cl | C20H14Cl2N2O6
